US07405236B2
a] 5-(4-Trifluoromethyl-phenyl)-pent-4-ynoic acid benzyl ester
In analogy to the procedure described for example 8 a], pent-4-ynoic acid benzyl ester (Rosowsky, Andre; Forsch, Ronald A.; Queener, Sherry F., Journal of Medicinal Chemistry (2003), 46(9), 1726-1736) was reacted with 4-iodobenzotrifluoride in the presence of PdCl2(Ph3P)2 and cuprous iodide to give the title compound as yellow oil.

reactant | pent-4-ynoic acid benzyl ester | C(C1=CC=CC=C1)OC(CCC#C)=O | C12H12O2
reactant | 4-iodobenzotrifluoride | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
product | 5-(4-Trifluoromethyl-phenyl)-pent-4-ynoic acid benzyl ester | C(C1=CC=CC=C1)OC(CCC#CC1=CC=C(C=C1)C(F)(F)F)=O | C19H15F3O2
